US05677328
4,4'-Dimethoxy-2-nitro-1,1'-biphenyl
4-Methoxyphenylboronic acid was reacted with 4-bromo-3-nitroanisole as described for 1a to furnish a yellow solid (90% yield): mp 122°-124° C.; [Lund, H. et al, Acta. Chem. Scand., 20, 1631-1644 (1966)]1H NMR (CDCl3) δ7.30 (m, 2H), 7.18 (d, 2H, J=9.0 Hz), 7.10 (d, 1H, J=8.4 Hz), 6.92 (d, 2H, J=9.0 Hz), 3.87 (s, 3H), 3.82 (s, 3H); 13C NMR (CDCl3): δ159.37, 158.80, 149.69, 132.76, 129.43, 129.19, 128.21, 118.60, 114.12, 108.90, 55.89, 55.28. Anal. Calcd for C14H13NO4 : C, 64.86; H, 5.05; N, 5.40. Found: C, 64.77; H, 4.96; N, 5.24.

reactant | 4-Methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-bromo-3-nitroanisole | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
product | 4,4'-Dimethoxy-2-nitro-1,1'-biphenyl | 90% yield | COC1=CC(=C(C=C1)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C14H13NO4
